US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(3-FLUOROPHENYL)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(3-fluorophenyl)ethyl]amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (71% yield). 1H NMR (400 MHz, CDCl3) δ 8.05, 7.93, 7.74, 7.64-7.56, 7.37-7.35, 7.26-7.24, 7.01-6.90, 4.10-4.03, 3.89-3.70, 3.36-3.33, 2.92.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(3-fluorophenyl)ethyl]amide | FC=1C=C(C=CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C13H11ClFN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(3-FLUOROPHENYL)ETHYL]AMIDE | FC=1C=C(C=CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F4N5O2
